US06867212B2
Synthesis of 6-(1-fluoroethyl)-5-iodo-4-pyrimidone
To an acetic acid (150 ml) solution of 6-(1fluoroethyl)-4-pyrimidone (56.8 g) was added dropwise under room temperature and stirring an acetic acid solution of iodine monochloride prepared by adding iodine (50.8 g) to acetic acid (500 ml) and blowing chlorine (15 g) thereinto under room temperature and stirring, and the resulting mixture was stirred for 6 hours.

reactant | 6-(1fluoroethyl)-4-pyrimidone | 56.8 g | FC(C)C1=CC(NC=N1)=O | C6H7FN2O
reactant | iodine monochloride | ICl | ClI
reactant | iodine | 50.8 g | II | I2
reactant | chlorine | 15 g | ClCl | Cl2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 6-(1-fluoroethyl)-5-iodo-4-pyrimidone | FC(C)C1=C(C(NC=N1)=O)I | C6H6FIN2O
